US07507733B2
This material was obtained in analogy to example 2, step A] via the alternative preparation method from cyclopentanecarboxamidine hydrochloride (CAS 68284-02-6) (500 mg) and 2-chloroacrylonitrile (324 mg) to give 2-cyclopentyl-pyrimidin-4-ylamine as an amorphous glass (142 mg). MS (ESI): 164.6 (MH+). This material was contaminated with several side products that could not be identified.

reactant | cyclopentanecarboxamidine hydrochloride | 500 mg | Cl.C1(CCCC1)C(=N)N
reactant | 2-chloroacrylonitrile | 324 mg | ClC(C#N)=C | C3H2ClN
product | 2-cyclopentyl-pyrimidin-4-ylamine | 142 mg | C1(CCCC1)C1=NC=CC(=N1)N | C9H13N3
